US04559402
Preparation of 2-methyl-3-[1-(p-chlorophenylcarbamoyl)-1,4,5,6-tetrahydronicotinoyl]-pyrazolo[1,5-a]pyridine
One g of 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)-pyrazolo[1,5-a]pyridine was dissolved in 20 ml of methylene chloride and 1 g of p-chlorophenyl isocyanate was added dropwise whilst stirring to the solution. The mixture was stirred at room temperature for 2 hours, and after removal of solvent in vacuo, the residue was recrystallized from ethyl acetate to afford the title compound in yield of 1.2 g (73%), mp 198°-200° C.

reactant | 2-methyl-3-(1,4,5,6-tetrahydronicotinoyl)-pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CNCCC1)=O | C14H15N3O
reactant | p-chlorophenyl isocyanate | 1 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-3-[1-(p-chlorophenylcarbamoyl)-1,4,5,6-tetrahydronicotinoyl]-pyrazolo[1,5-a]pyridine | CC1=NN2C(C=CC=C2)=C1C(C1=CN(CCC1)C(NC1=CC=C(C=C1)Cl)=O)=O | C21H19ClN4O2
